US04737559
Preparation of para-acryloxybenzophenone (ABP)
A three-neck round-bottom flask fitted with an addition funnel, thermometer and a mechanical stirrer was charged with 100 ml of water, 40 g (0.20M) of p-hydroxybenzophenone and 8.8 g of sodium hydroxide. The flask was cooled in an ice bath to 8-10° C., then 20 g (0.22) of acryloyl chloride were added dropwise while holding the temperature at 8-10° C. When the addition was complete, the reaction mixture was stirred for an additional half hour. Then 150 ml of diethyl ether was added to dissolve the product of the reaction. The ether layer was separated from the water layer and washed twice with 3% sodium hydroxide and twice with water. The solution was dried over magnesium sulfate, filtered and stripped. An amount of 43.0 g of an oily product was obtained and purified by recrystallization from absolute ethanol, from which an amount of about 34.7 g of white crystalline product was isolated.

reactant | water | 100 ml | O | H2O
reactant | p-hydroxybenzophenone | 0.20M, 40 g | OC1=CC=C(C=C1)C(C1=CC=CC=C1)=O | C13H10O2
reactant | sodium hydroxide | 8.8 g | [OH-].[Na+]
reactant | acryloyl chloride | 20 g | C(C=C)(=O)Cl | C3H3ClO
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | para-acryloxybenzophenone | 43.0 g | C(C=C)(=O)OC1=CC=C(C=C1)C(C1=CC=CC=C1)=O | C16H12O3
